US05726306
(3) 2-amino-5-chloro-α-(2,4,6-trimethoxyphenyl)benzyl alcohol
To a solution of 3.0 g of 2-amino-5-chloro-2',4',6'-trimethoxybenzophenone in 50 ml of tetrahydrofuran, 0.43 g of lithium aluminum hydride was added, followed by stirring for 1 hour. After water was added, the solution was extracted with ethyl acetate and dried over anhydrous sodium sulfate, after which the solvent was removed and the residue was subjected to silica gel column chromatography to yield 2.9 g of a crystal.

reactant | 2-amino-5-chloro-2',4',6'-trimethoxybenzophenone | 3.0 g | NC1=C(C(=O)C2=C(C=C(C=C2OC)OC)OC)C=C(C=C1)Cl | C16H16ClNO4
reactant | lithium aluminum hydride | 0.43 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-amino-5-chloro-α-(2,4,6-trimethoxyphenyl)benzyl alcohol | 2.9 g | NC1=C(C(C2=C(C=C(C=C2OC)OC)OC)O)C=C(C=C1)Cl | C16H18ClNO4
